US07807837B2
Step A: Preparation of (4-Chloro-phenyl)-[2-(3-dimethylamino-propane-1-sulfinyl)-3-methyl-3H-imidazol-4-yl]-methanone.
To a stirred solution of (4-Chloro-phenyl)-[2-(3-dimethylamino-propylsulfanyl)-3-methyl-3H-imidazol-4-yl]-methanone (135 mg) in glacial acetic acid (4.00 mL) was added at rt H2O2 (82.0 μL; 30 wt. % in water). The reaction solution was stirred for 48 h at rt, and water (10.0 mL) was added. The solution was brought to pH=12 using NaOH (25% in water) and extracted with CH2Cl2 (250 mL, 2×50.0 mL). The combined organic layers were washed with water (3×20.0 mL) and were dried over MgSO4. The solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel (CHCl3/2 M NH3 in MeOH) to give the title compound (121 mg). M calc=353; M+H found=354; 1H NMR (400 MHz, CD3OD): δ 7.91-7.87 (m, 2H), 7.70 (s, 1H), 7.60-7.55 (m, 2H), 4.21 (s, 3H), 3.61-3.48 (m, 2H), 2.54-2.43 (m, 2H), 2.21 (s, 6H), 2.04-1.94 (m, 2H). The compound demonstrated useful biological activity when assessed with a [3H]-N-methylhistamine binding assay (see Table in Example XXV).

reactant | (4-Chloro-phenyl)-[2-(3-dimethylamino-propylsulfanyl)-3-methyl-3H-imidazol-4-yl]-methanone | 135 mg | ClC1=CC=C(C=C1)C(=O)C=1N(C(=NC1)SCCCN(C)C)C | C16H20ClN3OS
reactant | H2O2 | 82.0 μL | OO | H2O2
reactant | water | 10.0 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 4.00 mL | C(C)(=O)O | C2H4O2
product | (4-Chloro-phenyl)-[2-(3-dimethylamino-propane-1-sulfinyl)-3-methyl-3H-imidazol-4-yl]-methanone | 121 mg | ClC1=CC=C(C=C1)C(=O)C=1N(C(=NC1)S(=O)CCCN(C)C)C | C16H20ClN3O2S
